US04002647
A solution of 2.7 g. of 6-hydroxy-2,3-dihydrobenzofuran in 10 ml. of absolute tetrahydrofuran is allowed to drop at 0° C. and while stirring into a suspension, cooled in ice, of 0.5 g. of sodium hydride in 5 ml. of absolute tetrahydrofuran. The mixture is stirred for 2 hours (during which time it is allowed to warm up to room temperature), again cooled to 0° C. and added dropwise to a solution of 7.13 g. of 7-methoxy-1,3,7-trimethyloctyl p-toluenesulfonate in 10 ml. of absolute tetrahydrofuran. The mixture is then diluted with 4 ml. of absolute hexamethylphosphoric acid triamide and stirred for 20 hours at room temperature. The mixture is then poured onto ice-water, extracted three times with diethyl ether, the ether extracts are washed with water and saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated. By chromatography on silica gel with hexane/ethyl acetate (19:1 parts by volume) there is obtained pure 2,3-dihydro-6-[(7-methoxy-1,3,7-trimethyloctyl)-oxy]-benzofuran which is distilled in a bulb-tube at 145° C./0.03 mmHg; nD20 = 1.5046.

reactant | 6-hydroxy-2,3-dihydrobenzofuran | OC1=CC2=C(CCO2)C=C1 | C8H8O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydride | [H-].[Na+]
reactant | 7-methoxy-1,3,7-trimethyloctyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(CC(CCCC(C)(C)OC)C)C)C | C19H32O4S
solvent | hexamethylphosphoric acid triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2,3-dihydro-6-[(7-methoxy-1,3,7-trimethyloctyl)-oxy]-benzofuran | COC(CCCC(CC(C)OC1=CC2=C(CCO2)C=C1)C)(C)C | C20H32O3
